US07291631B2
Using General Procedure A, reaction of (3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amine and 2-bromomethyl-5-cyano-benzoic acid methyl ester in CH3CN with DMAP, KI, and DIPEA gave 5-cyano-2-{[(3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amino]-methyl}-benzoic acid methyl ester as an amber oil. 1H NMR (CDCl3) δ 1.26 (t, 1H, J=7.3 Hz), 1.58 (d, 3H, J=6.7 Hz), 1.73 (s, 1H), 2.04 (s, 1H), 2.09 (s, 3H), 3.73-3.94 (m, 1H), 3.87 (s, 3H), 4.08-4.19 (m, 4H), 6.92-6.98 (m, 1H), 7.14-7.20 (m, 1H), 7.23 (d, 1H, J=8.0 Hz), 7.34 (d, 1H, J=7.8 Hz), 7.48-7.53 (m, 1H), 7.64-7.69 (m, 2H), 7.92 (d, 1H, J=1.6 Hz), 8.21 (d, 1H, J=3.0 Hz), 8.57 (d, 1H, J=4.8 Hz).

reactant | (3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amine | CC=1C(=NC=CC1)CNC(C)C1=NC=CC=C1 | C14H17N3
reactant | 2-bromomethyl-5-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-cyano-2-{[(3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amino]-methyl}-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CN(C(C)C1=NC=CC=C1)CC1=NC=CC=C1C)=O | C24H24N4O2
